US07294627B2
A stirred suspension of 1-t-butoxycarbonyl-4-[(methylamino)methyl]piperidine (3.50 g, 15.3 mmol), 2,4-dichloropyrimidine (2.74 g, 18.3 mmol) and potassium carbonate (4.15 g, 30.0 mmol) in dimethylformamide (38 mL) is heated at 60° C. for 3 hours. Excess dimethylformamide is removed in vacuo and the residue is taken into water and chloroform. The phases are separated and the aqueous phase is extracted into chloroform (×2). The combined organic extracts are dried (sodium sulfate), filtered and concentrated in vacuo. Flash column chromatography eluting with a gradient of 30% ethyl acetate-hexane to 60% ethyl acetate-hexane provides 1-t-butoxycarbonyl-4-{[(2-chloropyrimidin-4-yl)(methyl)amino]methyl}piperidine (4.23 g, 80%).

reactant | 1-t-butoxycarbonyl-4-[(methylamino)methyl]piperidine | 15.3 mmol, 3.50 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC | C12H24N2O2
reactant | 2,4-dichloropyrimidine | 18.3 mmol, 2.74 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | potassium carbonate | 30.0 mmol, 4.15 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 38 mL | CN(C=O)C | C3H7NO
product | 1-t-butoxycarbonyl-4-{[(2-chloropyrimidin-4-yl)(methyl)amino]methyl}piperidine | 4.23 g, 80% | C(C)(C)(C)OC(=O)N1CCC(CC1)CN(C)C1=NC(=NC=C1)Cl | C16H25ClN4O2
